US06410534B1
Step D: (R)-2-Amino-N-(7-hydroxynaphthalen-1-yl)-N-methylpropionamide hydrochloride
A solution of (R)-2-(tert-butoxycarbonylamino)-N-{7-[(2-methoxyethoxy)methoxy]naphthalen-1-yl}-N-methylpropionamide, as described above in Step C, (255 mg, 0.59 mmol) in EtOAc (10 mL) at ambient temperature was saturated with HCl (g). After 1 hr, the mixture was concentrated in vacuo to yield the titled product as a pale solid.

reactant | (R)-2-(tert-butoxycarbonylamino)-N-{7-[(2-methoxyethoxy)methoxy]naphthalen-1-yl}-N-methylpropionamide | C(C)(C)(C)OC(=O)N[C@@H](C(=O)N(C)C1=CC=CC2=CC=C(C=C12)OCOCCOC)C | C23H32N2O6
reactant | HCl | Cl | ClH
solvent | EtOAc | 10 mL | CCOC(=O)C | C4H8O2
product | (R)-2-Amino-N-(7-hydroxynaphthalen-1-yl)-N-methylpropionamide hydrochloride | Cl.N[C@@H](C(=O)N(C)C1=CC=CC2=CC=C(C=C12)O)C | InChI=1S/C14H16N2O2.ClH/c1-9(15)14(18)16(2)13-5-3-4-10-6-7-11(17)8-12(10)13;/h3-9,17H,15H2,1-2H3;1H/t9-;/m1./s1
